US07935722B2
N-[6-Cyano-9-(3-fluoro-pyridin-2-ylmethyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide
Suspend sodium hydride (60% suspension in mineral oil, 114 mg, 1.64 mmol) in dimethylformamide (7 mL) and cool to 0° C. Add a solution of N-(6-cyano-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide (Preparation 3) (385 mg, 1.37 mmol) in dimethylformamide (3.5 mL). After several minutes, warm the reaction to room temperature, and stir for 30 min, after which time add 2-chloromethyl-3-fluoro-pyridine (Preparation 60). Stir the reaction overnight and then dilute with ethyl acetate (100 mL). Wash the reaction mixture sequentially with brine (3×75 mL), water (75 mL), and brine (75 mL). Separate the organic layer, dry over magnesium sulfate, filter, and concentrate under reduced pressure. Purify using flash chromatography [silica gel, gradient from 0:100 to 20:80 (90:10:1 dichloromethane:methanol:concentrated ammonium hydroxide):dichloromethane] to provide 184 mg (38%) of the title compound as an off-white solid. m.p.=213-216° C.; MS: m/z 391 [C23H23FN4O+1]+; 1H NMR (300 MHz, DMSO-d6): δ 8.29-8.31 (m, 1H), 7.92 (d, J=1.2 Hz, 1H), 7.84 (d, J=7.6 Hz, 1H), 7.71-7.78 (m, 1H), 7.58 (d, J=8.5 Hz, 1H), 7.38-7.44 (m, 2H), 5.56 (s, 2H), 3.99-4.04 (m, 1H), 2.73-3.00 (m, 3H), 2.49-2.55 (m, 1H), 2.37 (septet, J=6.8 Hz, 1H), 1.96-2.00 (m, 1H), 1.76-1.83 (m, 1H), 1.01 (d, J=6.8 Hz, 6H).

reactant | sodium hydride | 1.64 mmol, 114 mg | [H-].[Na+]
reactant | N-(6-cyano-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide | 1.37 mmol, 385 mg | C(#N)C=1C=C2C=3CC(CCC3NC2=CC1)NC(C(C)C)=O | C17H19N3O
reactant | 2-chloromethyl-3-fluoro-pyridine | ClCC1=NC=CC=C1F | C6H5ClFN
solvent | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-[6-Cyano-9-(3-fluoro-pyridin-2-ylmethyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide | 184 mg, 38% | C(#N)C=1C=C2C=3CC(CCC3N(C2=CC1)CC1=NC=CC=C1F)NC(C(C)C)=O | C23H23FN4O
